US09303033B2
Tert-butyl 6-bromo-3-formylimidazo[1,2-a]pyrazine-8-yl(cyclopropyl)carbamate (100 mg, 0.26 mmol), 4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]morpholine (118 mg, 0.39 mmol), 3M Na2CO3 (1.3 mL, 2.60 mmol) and DME (3.5 mL) were combined. The solution was degassed with a stream of N2 for 10 min. Pd(PPh3)4 was added and the solution was refluxed for 2 h. The solution was partitioned between dichloromethane (25 mL) and water (25 mL). The aqueous layer was further extracted with dichloromethane (2×25 mL). The organics were washed with brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was purified via preparative TLC (5% MeOH/dichloromethane) to afford tert-butyl cyclopropyl(3-formyl-6-(3-(morpholinomethyl)phenyl)imidazo[1,2-a]pyrazin-8-yl)carbamate (60 mg, 48%). LCMS (ES): >95% pure, m/z 478 [M+1]+.

reactant | Tert-butyl 6-bromo-3-formylimidazo[1,2-a]pyrazine-8-yl(cyclopropyl)carbamate | 0.26 mmol, 100 mg | BrC=1N=C(C=2N(C1)C(=CN2)C=O)N(C(OC(C)(C)C)=O)C2CC2 | C15H17BrN4O3
reactant | 4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]morpholine | 0.39 mmol, 118 mg | CC1(OB(OC1(C)C)C=1C=C(CN2CCOCC2)C=CC1)C | C17H26BNO3
reactant | Na2CO3 | 2.60 mmol, 3M, 1.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 3.5 mL | COCCOC | C4H10O2
product | tert-butyl cyclopropyl(3-formyl-6-(3-(morpholinomethyl)phenyl)imidazo[1,2-a]pyrazin-8-yl)carbamate | 60 mg, 48% | C1(CC1)N(C(OC(C)(C)C)=O)C=1C=2N(C=C(N1)C1=CC(=CC=C1)CN1CCOCC1)C(=CN2)C=O | C26H31N5O4
